US07244730B2
(Step 1) (5-Ethoxy-4,6-dimethyl-3-pyridyl)methanol
A suspension of 4-deoxypyridoxine hydrochloride (0.99 g, 5.2 mmol) in dimethylformamide (10 ml) was added dropwise to a suspension of 60% NaH (0.42 g, 10.5 mmol) in dimethylformamide (10 ml) while cooling on ice, and the mixture was stirred at room temperature for 1 day. Ethyl iodide (0.44 ml, 5.5 mmol) was then added dropwise at room temperature and stirring was continued for 17 hours. After confirming completion of the reaction by thin layer chromatography, the mixture was poured into semi-saturated aqueous sodium hydrogencarbonate and extraction was performed with ethyl acetate-tetrahydrofuran (1:1). The extract was washed with brine and dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (solvent: methylene chloride-methanol) to yield the title compound (0.415 g, 44%).

reactant | 4-deoxypyridoxine hydrochloride | 5.2 mmol, 0.99 g | CC1=C(C(=NC=C1CO)C)O.Cl
reactant | NaH | 10.5 mmol, 0.42 g | [H-].[Na+]
reactant | Ethyl iodide | 5.5 mmol, 0.44 ml | C(C)I | C2H5I
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate tetrahydrofuran | C(C)(=O)OCC.O1CCCC1
product | (5-Ethoxy-4,6-dimethyl-3-pyridyl)methanol | 0.415 g, 44% | C(C)OC=1C(=C(C=NC1C)CO)C | C10H15NO2
